US07524843B2
Preparation of (E)-3-(6-amino-4-methylpyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide
To a stirred solution of (E)-3-(6-amino-4-methylpyridin-3-yl)acrylic acid HCl salt (0.70 g, 3.3 mmole) in 1:1 DMF/CH2Cl2 (30 mL) was added Et3N (0.42 mL, 3 mmole), 1-methyl-2-(methylaminomethyl)indole (0.50 g, 2.9 mmole), HOBt.H2O (0.41 g, 3 mmole), and DCC (0.70 g, 3 mmole). After stirring at RT for 16 hr the reaction was concentrated under vacuum. The residue was taken up in ethyl acetate and filtered. The filtrate was washed with 1.0 N Na2CO3 then with brine, dried (Na2SO4), and concentrated under vacuum. Purification by flash chromatography on silica gel (4% methanol/CHCl3) gave the title compound (0.74 g, 74%) as a pale yellow solid: LCMS (ES) m/e 335.2 (M+H)+.

reactant | (E)-3-(6-amino-4-methylpyridin-3-yl)acrylic acid HCl salt | 3.3 mmole, 0.70 g | Cl.NC1=CC(=C(C=N1)/C=C/C(=O)O)C
reactant | Et3N | 3 mmole, 0.42 mL | CCN(CC)CC | C6H15N
reactant | 1-methyl-2-(methylaminomethyl)indole | 2.9 mmole, 0.50 g | CN1C(=CC2=CC=CC=C12)CNC | C11H14N2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 3 mmole, 0.41 g | O | H2O
reactant | DCC | 3 mmole, 0.70 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF CH2Cl2 | 30 mL | CN(C)C=O.C(Cl)Cl
product | (E)-3-(6-amino-4-methylpyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide | 0.74 g, 74% | NC1=CC(=C(C=N1)/C=C/C(=O)N(CC=1N(C2=CC=CC=C2C1)C)C)C | C20H22N4O
